US07582657B2
(2E)-N-Indol-6-yl-3-[2-(3-pyridyl)-4-(trifluoromethyl)phenyl]prop-2-enamide
Analogous to the procedure used to prepare Example 1, (2E)-3-[2-(3-pyridyl)-4-(trifluoromethyl)phenyl]prop-2-enoic acid, Example 106(b), (185 mg) and 6-aminoindole (59 mg, 0.44 mmol, Aldrich) provided, after purification by silica gel chromatography (gradient: 0-50% EtOAc in hexane), the title compound as an amorphous orange solid. MS (ESI, pos. ion) m/z: 408 (M+1).

reactant | (2E)-3-[2-(3-pyridyl)-4-(trifluoromethyl)phenyl]prop-2-enoic acid | N1=CC(=CC=C1)C1=C(C=CC(=C1)C(F)(F)F)/C=C/C(=O)O | C15H10F3NO2
reactant | 6-aminoindole | 0.44 mmol, 59 mg | NC1=CC=C2C=CNC2=C1 | C8H8N2
product | (2E)-N-Indol-6-yl-3-[2-(3-pyridyl)-4-(trifluoromethyl)phenyl]prop-2-enamide | N1C=CC2=CC=C(C=C12)NC(\C=C\C1=C(C=C(C=C1)C(F)(F)F)C=1C=NC=CC1)=O | C23H16F3N3O
